US08431706B2
Methyl 5-(bromomethyl)thiophene-2-carboxylate
Add freshly recrystallised NBS (323.8 g, 1.81 mol) to a solution of methyl-5-methylthiophene-2-carboxylate (258 g, 1.65 mol) in chloroform (2.6 L) at room temperature, and stir. Add benzoyl peroxide (3.99 g, 0.016 mol) and heat the reaction mixture to reflux for 7 hours. Cool the reaction mixture to ambient temperature and filter through diatomaceous earth. Wash the filter cake with chloroform (250 ml). Collect the organic layers and remove the solvent to give the title compound (388 g, 100%), which is used without further purification. ESI (m/z) 236(M+H).

reactant | NBS | 1.81 mol, 323.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | methyl-5-methylthiophene-2-carboxylate | 1.65 mol, 258 g | COC(=O)C=1SC(=CC1)C | C7H8O2S
solvent | chloroform | 2.6 L | C(Cl)(Cl)Cl | CHCl3
catalyst | benzoyl peroxide | 0.016 mol, 3.99 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Methyl 5-(bromomethyl)thiophene-2-carboxylate | 388 g, 100% | BrCC1=CC=C(S1)C(=O)OC | C7H7BrO2S
